US08193202B2
A. Preparation of 1-tert-butyl 4-ethyl 4-(methoxymethyl)piperidine-1,4-dicarboxylate.
To a solution of 1-tert-butyl 4-ethyl piperidine-1,4-dicarboxylate (1.0 g, 4.07 mmol) in THF (20 mL) at −78° C. under nitrogen was added dropwise LDA (1.5 M in THF, 4.0 mL, 6.10 mmol). This solution was stirred for 1 hour at −78° C., after which methoxymethyl chloride (0.8 mL, 10.5 mmol) was added. The system was allowed to warm slowly to room temperature over 2 hours. The reaction was quenched with aqueous NH4Cl and extracted with ethyl acetate (3×50 mL). The organic layer was dried over a pad of silica gel, and the solvent removed under vacuum. The title compound was isolated by silica gel chromatography (5-10% ethyl acetate:hexanes) as a clear oil (830 mg, 69% yield). MS (ES+) [M+H]+=302.4.

reactant | 1-tert-butyl 4-ethyl piperidine-1,4-dicarboxylate | 4.07 mmol, 1.0 g | N1(CCC(CC1)C(=O)OCC)C(=O)OC(C)(C)C | C13H23NO4
reactant | LDA | 6.10 mmol, 1.5 M, 4.0 mL | [Li+].CC(C)[N-]C(C)C
reactant | methoxymethyl chloride | 10.5 mmol, 0.8 mL | COCCl | C2H5ClO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 1-tert-butyl 4-ethyl 4-(methoxymethyl)piperidine-1,4-dicarboxylate | COCC1(CCN(CC1)C(=O)OC(C)(C)C)C(=O)OCC | C15H27NO5
